US07211572B2
3-Benzyloxy-5-bromo-1-(2-hydroxyethyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chlorobenzylamide (1.75 g) was suspended in tetrahydrofuran (50 ml), and N,N-diisopropylethylamine (3.72 ml) and methanesulfonyl chloride (1.38 ml) were added. After stirring at room temperature for 1 hr, 0.5N aqueous hydrochloric acid (40 ml) was added, and the mixture was extracted twice with ethyl acetate (100 ml each). The ethyl acetate layer was washed with aqueous sodium hydrogen carbonate, dried and concentrated. The obtained residue was dissolved in dimethylformamide (50 ml) and 60% sodium hydride was added by small portions with stirring at room temperature. After confirming the completion of the reaction by thin layer chromatography (TLC), the reaction mixture was ice-cooled, 0.33N aqueous hydrochloric acid (300 ml) was added, and the mixture was extracted twice with ethyl acetate (250 ml each). The ethyl acetate layer was washed with water, dried, concentrated, and crystallized from ethyl acetate-hexane to give 9-benzyloxy-7-bromo-2-(3-chlorobenzyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione (1.58 g).

reactant | 3-Benzyloxy-5-bromo-1-(2-hydroxyethyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chlorobenzylamide | 1.75 g | ClC=1C=C(CNC(=O)C=2N(C=C(C(C2OCC2=CC=CC=C2)=O)Br)CCO)C=CC1 | C22H20BrClN2O4
reactant | N,N-diisopropylethylamine | 3.72 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 1.38 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 0.5N, 40 ml | Cl | ClH
reactant | hydrochloric acid | 0.33N, 300 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 9-benzyloxy-7-bromo-2-(3-chlorobenzyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione | 1.58 g | C(C1=CC=CC=C1)OC=1C(C(=CN2C1C(N(CC2)CC2=CC(=CC=C2)Cl)=O)Br)=O | C22H18BrClN2O3
